US05554615
A solution of t-butyl 2-thiophenecarboxylate (1.84 g, 10 mmol) and N,N,N',N'-tetramethylethylenediamine (1.74 g, 15 mmol) in anhydrous tatrahydrofuran was stirred in a nitrogen stream under cooling with dry ice/acetone, followed by the dropwise addition of a 1.7M solution (8.0 ml) of t-butyllithium (13.6 mmol) in pentane. The obtained mixture was stirred as such for about 50 minutes. Anhydrous dimethylformamide (15 ml) was gradually dropped into the resulting mixture to conduct a reaction. The dry ice/acetone was removed to raise the temperature of the mixture to room one. The resulting mixture was stirred for 40 minutes and poured into 300 ml of a diethyl ether/0.3 N HCl (3:1) mixture. The obtained mixture was stirred for a while. The organic layer was recovered, washed with a phosphate buffer solution having a pH of 7 and an aqueous solution of common salt, dehydrated and distilled to remove the solvent. The residue was purified by silica gel column chromatography (developer: n-hexane/ethyl acetate=8:1) to give t-butyl 5-formyl-2-thiophenecarboxylate. yield: 1.7 g

reactant | t-butyl 2-thiophenecarboxylate | 10 mmol, 1.84 g | S1C(=CC=C1)C(=O)OC(C)(C)C | C9H12O2S
reactant | N,N,N',N'-tetramethylethylenediamine | 15 mmol, 1.74 g | CN(CCN(C)C)C | C6H16N2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | t-butyllithium | 13.6 mmol | C(C)(C)(C)[Li]
solvent | pentane | CCCCC | C5H12
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | t-butyl 5-formyl-2-thiophenecarboxylate | C(=O)C1=CC=C(S1)C(=O)OC(C)(C)C | C10H12O3S
